US05039672
1. Methyl 2,3-dihydro-6-fluoro-4-(2-propenyl)-4H-1-benzopyran-4-carboxylate
A solution of methyl 6-fluorochromane-4-carboxylate (2.1 g) in anhydrous N,N-dimethylformamide was added to a suspension of sodium hydride (265 mg) in anhydrous N,N-dimethylformamide under nitrogen. After gas evolution ceased, the mixture was cooled to 0° C., and neat allyl bromide (0.95 mL) was added. After 1 hour, 20 mL of an aqueous saturated ammonium chloride solution was added, and the mixture extracted with ethyl acetate, the extracts washed with water, brine, dried over anhydrous sodium sulfate, filtered and evaporated to afford the title compound as a colorless oil, 2.4 g. (HRMS calc'd 250.1004; found 250.1002).

reactant | methyl 6-fluorochromane-4-carboxylate | 2.1 g | FC=1C=C2C(CCOC2=CC1)C(=O)OC | C11H11FO3
reactant | sodium hydride | 265 mg | [H-].[Na+]
reactant | allyl bromide | 0.95 mL | C(C=C)Br | C3H5Br
reactant | ammonium chloride | 20 mL | [Cl-].[NH4+]
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | Methyl 2,3-dihydro-6-fluoro-4-(2-propenyl)-4H-1-benzopyran-4-carboxylate | FC=1C=CC2=C(C(CCO2)(C(=O)OC)CC=C)C1 | C14H15FO3
